US06919356B2
Part D: Preparation of methanesulfonic acid trans-{1-[2-(4-fluorophenyl)ethyl]-4-methylpiperidin-3-ylmethyl} ester
A solution of trans-{1-[2-(4-fluorophenyl)ethyl]-4-methylpiperidin-3-yl}-methanol (251 mg, 1.0 mmol) in dichloromethane (10 mL) was treated with triethylamine (280 μL, 2.0 mmol) and stirred on an ice-acetone bath. Methanesulfonyl chloride (85 μL, 1.1 mmol) was added dropwise, and the resulting solution was stirred at room temperature for 1.5 hours. The solution was concentrated under vacuum, and the residue was taken up in ethyl acetate and filtered. The filtrate was concentrated under vacuum to provide an orange gum (342 mg, quantitative) which was used without further purification. 1H NMR (300 MHz, CDCl3) δ7.16 (m, 2H), 6.98 (t, J=9 Hz, 2H), 4.30 (dd, J=10, 3 Hz, 1H), 4.18 (dd, J=10, 7 Hz, 1H), 3.13 (dm, J=10 Hz, 1H), 3.02 (s+m, 4H), 2.83 (m, 2H), 2.66 (m, 2H), 2.07 (m, 2H), 1.76 (m, 2H), 1.43 (m, 2H), 1.02 (d, J=6, 3H).

reactant | trans-{1-[2-(4-fluorophenyl)ethyl]-4-methylpiperidin-3-yl}-methanol | 1.0 mmol, 251 mg | FC1=CC=C(C=C1)CCN1C[C@H]([C@@H](CC1)C)CO | C15H22FNO
reactant | triethylamine | 2.0 mmol, 280 μL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 1.1 mmol, 85 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methanesulfonic acid trans-{1-[2-(4-fluorophenyl)ethyl]-4-methylpiperidin-3-ylmethyl} ester | FC1=CC=C(C=C1)CCN1C[C@H]([C@@H](CC1)C)COS(=O)(=O)C | C16H24FNO3S
